US09119868B2
Aqueous hydrochloric acid (4 mL, 1 N) was added to a solution of 5-cyclopropyl-6-(N-(3-fluoro-5-((methoxymethoxy)methyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (306 mg) in THF (4.0 mL) and MeOH (0.8 mL). The mixture was heated to 70° C. under N2 overnight. The mixture was cooled to room temperature and the organic solvent was removed under reduced pressure. The crude was diluted with EtOAc, washed with brine, dried over Na2SO4, filtered and concentrated to dryness. MeOH (6 mL) was then added to the crude and stirred for 15 min. A white solid was formed which was filtered to give 170 mg crude product (90% purity). 50 mg crude product was purified by silica gel chromatography (0-100% EtOAc in DCM, then 0-10% MeOH in DCM) to give 5-cyclopropyl-6-(N-(7-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (17 mg, 6.24% yield). Another 120 mg crude product was washed with MeOH and dried to give 5-cyclopropyl-6-(N-(7-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (106 mg, 36.6% yield). 1H NMR (400 MHz, DMSO-d6) 8 ppm 0.50 (br. s., 1H), 0.81 (br. s., 2H), 0.97 (br. s., 1H), 2.06 (br. s., 1H), 2.84 (d, J=4.3 Hz, 3H), 3.48 (s, 3H), 4.95 (s, 2H), 7.02 (d, J=9.9 Hz, 1H), 7.20 (d, J=7.9 Hz, 2H), 7.41 (t, J=8.8 Hz, 2H), 7.97 (dd, J=8.5, 5.6 Hz, 2H), 8.04 (s, 1H), 8.49 (d, J=4.5 Hz, 1H), 9.28 (s, 1H). LCMS (m/z, ES+)=553 (M+H+).

reactant | hydrochloric acid | 1 N, 4 mL | Cl | ClH
reactant | 5-cyclopropyl-6-(N-(3-fluoro-5-((methoxymethoxy)methyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 306 mg | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC(=C(C(=C1)COCOC)B1OC(C(O1)(C)C)(C)C)F | C35H39BF2N2O8S
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.8 mL | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-cyclopropyl-6-(N-(7-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 17 mg, 6.24% yield | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC2=C(B(OC2)O)C(=C1)F | C27H23BF2N2O6S
